US07544697B2
Hydrogen peroxide (0.8 mL of 30%) was added to a suspension of 3-(4-amino-2-propyl-2H-pyrazolo[3,4-c][1,8]naphthyridin-1-yl)-2,2-dimethylpropanenitrile (0.54 g, 1.75 mmol) in 6 N aqueous sodium hydroxide. The reaction and work-up procedures described in Example 1288 were followed with the modification that the reaction was heated for 5.5 hours. Following chromatographic purification (eluting with 0% to 55% CMA in chloroform) and drying under high vacuum, 0.16 g of 3-(4-amino-2-propyl-2H-pyrazolo[3,4-c][1,8]naphthyridin-1-yl)-2,2-dimethylpropanamide was obtained as a white solid, mp 254-257° C.

reactant | Hydrogen peroxide | 0.8 mL | OO | H2O2
reactant | 3-(4-amino-2-propyl-2H-pyrazolo[3,4-c][1,8]naphthyridin-1-yl)-2,2-dimethylpropanenitrile | 1.75 mmol, 0.54 g | NC1=NC=2N=CC=CC2C=2C1=NN(C2CC(C#N)(C)C)CCC | C17H20N6
solvent | sodium hydroxide | 6 N | [OH-].[Na+]
product | 3-(4-amino-2-propyl-2H-pyrazolo[3,4-c][1,8]naphthyridin-1-yl)-2,2-dimethylpropanamide | 0.16 g | NC1=NC=2N=CC=CC2C=2C1=NN(C2CC(C(=O)N)(C)C)CCC | C17H22N6O
